US09034486B2
Step 1: Synthesis of 3-(4-Bromophenyl)-1,2,4-triazolo[3,4-α]isoquinoline
To a 50-mL three-neck flask were added 0.8 g (5.0 mmol) of 1-chloroisoquinoline, 1.1 g (5.0 mmol) of 4-bromobenzoylhydrazine, and 10 mL of para-xylene. This mixture was stirred at 100° C. for 4 hours under a nitrogen stream. After a predetermined time elapsed, this mixture was cooled to room temperature, and the precipitated solid was collected by suction filtration. The obtained solid was purified by silica gel column chromatography (chloroform:ethyl acetate=10:1), so that the substance which was the object of the synthesis was obtained as 0.5 g of a white powder in 29% yield.

reactant | 1-chloroisoquinoline | 5.0 mmol, 0.8 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | 4-bromobenzoylhydrazine | 5.0 mmol, 1.1 g | BrC1=CC=C(C(=O)NN)C=C1 | C7H7BrN2O
solvent | para-xylene | 10 mL | C1(=CC=C(C=C1)C)C | C8H10
product | 3-(4-Bromophenyl)-1,2,4-triazolo[3,4-α]isoquinoline | 0.5 g, 29% yield | BrC1=CC=C(C=C1)C1=NN=C2N1C=CC1=CC=CC=C21 | C16H10BrN3
